US08563753B2
Activated Ni EnCat (0.26 g, water wet, 20 mol % Ni on substrate) was washed with MeOH three times to remove water and added to 4-chlorobenzonitrile (0.137 g, 1 mmol) dissolved in 7 N ammonia in MeOH (4 ml) in a pressure vessel. The vessel was sealed and purged twice with hydrogen then pressurised to 5-6 bar with hydrogen and the contents magnetically stirred at room temperature. Progress of reaction was carried out by GCMS analysis. After 24 h the hydrogen was vented and the Ni EnCat beads removed by filtration. The filtrate was concentrated on a rotary evaporator to give 4-chlorobenzylamine (0.13 g, 91%). GCMS purity 77%.

reactant | 4-chlorobenzonitrile | 1 mmol, 0.137 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 7 N | N | H3N
solvent | MeOH | 4 ml | CO | CH4O
product | 4-chlorobenzylamine | 0.13 g, 91% | ClC1=CC=C(CN)C=C1 | C7H8ClN
